US05106878
A solution of 5.6 g of 2,3,4,5,6-pentafluoro-4'-methoxy-benzophenone in 100 ml of ethylene chloride was added dropwise at -7° under argon to a solution of 23.23 g of boron tribromide in 100 ml of ethylene chloride. The reaction mixture was warmed to room temperature and stirred at this temperature for 5 hours. The reaction mixture was poured into 200 ml of ice-cold water and extracted three times with 150 ml of methylene chloride each time. The combined extracts were washed with 200 ml of water and dried over magnesium sulphate. After evaporation of the solvent the residue was chromatographed on 900 g of silica gel with methylene chloride. There were obtained 3.87 g (72%) of 2,3,4,5,6-pentafluoro-4'-hydroxy-benzophenone; m.p. 138°-140°.

reactant | 2,3,4,5,6-pentafluoro-4'-methoxy-benzophenone | 5.6 g | FC1=C(C(=O)C2=CC=C(C=C2)OC)C(=C(C(=C1F)F)F)F | C14H7F5O2
reactant | boron tribromide | 23.23 g | B(Br)(Br)Br | BBr3
solvent | ethylene chloride | 100 ml | C(CCl)Cl | C2H4Cl2
solvent | ethylene chloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | 2,3,4,5,6-pentafluoro-4'-hydroxy-benzophenone | 3.87 g, 72% | FC1=C(C(=O)C2=CC=C(C=C2)O)C(=C(C(=C1F)F)F)F | C13H5F5O2
